US07511050B2
Step A: benzyl (3Z)-3-[(2E)-(6-oxo-3-pentyl-1,3,6,7-tetrahydro-2H-purin-2-ylidene)hydrazono]propylcarbamate
A mixture of (2E)-3-pentyl-3,7-dihydro-1H-purine-2,6-dione 2-hydrazone (2.3 g, 9.6 mmol) and benzyl (3-oxopropyl)carbamate (2.0 g, 9.6 mmol) in ethanol (30 mL) was refluxed overnight. The reaction mixture was concentrated to give the product (4.0 g, 58% yield), which was used for next step without further purification. LCMS calculated for C21H25N7O3 (M+H): 426.2; found: 426.1.

reactant | (2E)-3-pentyl-3,7-dihydro-1H-purine-2,6-dione 2-hydrazone | 9.6 mmol, 2.3 g | C(CCCC)N1/C(/NC(C=2NC=NC12)=O)=N/N | C10H16N6O
reactant | benzyl (3-oxopropyl)carbamate | 9.6 mmol, 2.0 g | O=CCCNC(OCC1=CC=CC=C1)=O | C11H13NO3
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | benzyl (3Z)-3-[(2E)-(6-oxo-3-pentyl-1,3,6,7-tetrahydro-2H-purin-2-ylidene)hydrazono]propylcarbamate | 4.0 g, 58% yield | O=C1C=2NC=NC2N(\C(\N1)=N\N=C/CCNC(OCC1=CC=CC=C1)=O)CCCCC | C21H27N7O3
